US09085586B2
A solution of ethyl 4-chlorobenzo[4,5]thieno[2,3-d]pyrimidine-6-carboxylate (500 mg, 1.7 mmol, 1.00 equiv), 4-(morpholin-4-yl)cyclohexan-1-amine chloride (1.1 g, 4.25 mmol, 2.5 equiv) and potassium carbonate (2.3 g, 17 mmol, 10.17 equiv) in CH3CN (100 mL) was Et3N (2 mL) at room temperature under nitrogen. The resulting solution was heated to reflux overnight. The solids were filtered out and the filtrate was concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (10:1) to give the desired ethyl 3-[[4-(morpholin-4-yl)cyclohexyl]amino]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5,10,12-hexaene-12-carboxylate (500 mg, 66%) as a yellow solid. LCMS: (ES, m/z) 441 [M+H]+. 1H-NMR (300 MHz, CD3OD): δ 1.44-1.53 (4H, m), 1.57-1.65 (3H, m), 2.24-2.29 (2H, m), 2.25-2.33 (3H, m), 2.56-2.67 (4H, m), 3.45-3.75 (4H, m), 4.31-4.43 (1H, m), 4.45-4.50 (2H, m), 8.07-8.16 (2H, m), 8.49 (1H, s), 8.78 (1H, s).

reactant | ethyl 4-chlorobenzo[4,5]thieno[2,3-d]pyrimidine-6-carboxylate | 1.7 mmol, 500 mg, 1.00 equiv | ClC=1C2=C(N=CN1)SC1=C2C=C(C=C1)C(=O)OCC | C13H9ClN2O2S
reactant | 4-(morpholin-4-yl)cyclohexan-1-amine chloride | 4.25 mmol, 1.1 g, 2.5 equiv | [Cl-].N1(CCOCC1)C1CCC(CC1)N
reactant | potassium carbonate | 17 mmol, 2.3 g, 10.17 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | Et3N | 2 mL | CCN(CC)CC | C6H15N
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | ethyl 3-[[4-(morpholin-4-yl)cyclohexyl]amino]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5,10,12-hexaene-12-carboxylate | 500 mg, 66% | N1(CCOCC1)C1CCC(CC1)NC=1C=2C=3C=C(C=CC3SC2N=CN1)C(=O)OCC | C23H28N4O3S
